US09102673B2
Step 1: Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (500 mg, 2.374 mmole), 2-(4-tert-butoxyphenoxy)ethanol (624 mg, 2.97 mmole), and PPh3 (778 mg, 2.97 mmole) were combined in toluene (10 mL) at RT. To this was added DIAD (0.58 mL, 2.98 mmole) slowly at RT. After 3 hr the mixture was concentrated. Flash column chromatography (Biotage-SNAP-50 g SiO2, 0-25% EtOAc/hexanes) gave the title compound (1.0 g, 105%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.18 (d, J=6.0 Hz, 1 H); 7.44 (d, J=1.0 Hz, 1 H); 7.43-7.38 (m, 1 H); 6.85-6.81 (m, 2 H); 6.64-6.60 (m, 2 H); 4.92 (t, J=5.0 Hz, 2 H); 4.31 (t, J=5.0 Hz, 2 H); 3.95 (s, 3H); 1.26 (s, 9 H).

reactant | Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 2.374 mmole, 500 mg | ClC1=NC=CC2=C1C=C(N2)C(=O)OC | C9H7ClN2O2
reactant | 2-(4-tert-butoxyphenoxy)ethanol | 2.97 mmole, 624 mg | C(C)(C)(C)OC1=CC=C(OCCO)C=C1 | C12H18O3
reactant | PPh3 | 2.97 mmole, 778 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.98 mmole, 0.58 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 1.0 g, 105% | C(C)(C)(C)OC1=CC=C(OCCN2C(=CC=3C(=NC=CC32)Cl)C(=O)OC)C=C1 | C21H23ClN2O4
